US07842696B2
DIPEA (77 mg, 0.1 mL, 0.59 mmol) was added to a stirred solution of 5-benzo[1,3]dioxol-5-yl-1H-pyrazole-3-carboxylic acid (60 mg, 0.17 mmol))(prepared by the method as described above) in DMF (2 mL). HOBT (24 mg, 0.17 mmol) and EDCI (34.3 mg, 0.17 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (60 mg, 0.17 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 86 mg (95% yield) of 5-benzo[1,3]dioxol-5-yl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.365%. 1H NMR (DMSO-d6): δ 13.6 (s, 1H), 8.0 (s, 1H), 7.7 (m, 2H), 7.6 (m, 1H), 7.5 (m, 1H), 7.3 (m, 2H), 7.0 (m, 2H), 6.0 (s, 2H), 4.1 (m, 2H), 3.7 (m, 2H), 3.54 (m, 2H), 3.4 (m, 2H), 3.1 (m, 2H).

reactant | DIPEA | 0.59 mmol, 0.1 mL, 77 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-benzo[1,3]dioxol-5-yl-1H-pyrazole-3-carboxylic acid | 0.17 mmol, 60 mg | O1COC2=C1C=CC(=C2)C2=CC(=NN2)C(=O)O | C11H8N2O4
reactant | HOBT | 0.17 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.17 mmol, 34.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.17 mmol, 60 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-benzo[1,3]dioxol-5-yl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 86 mg, 95% yield | O=C(CNC(=O)C1=NNC(=C1)C1=CC2=C(OCO2)C=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H22F3N5O5
